US07629363B2
Step 2. Preparation of 3-Chloro-4-hydroxy-6-methyl-1H-pyridin-2-one
4-Hydroxy-6-methyl-1H-pyridin-2-one (25 g, 0.2 mol) and N-chlorosuccinimide (29.4 g, 0.22 mol) were dissolved in 200 mL of acetic acid. The reaction was heated at 115° C. for 6 hours. The reaction was cooled to room temperature, the solid was filtered, and washed with acetic acid and hexanes. The solid was dried in a vacuum oven overnight to give a white solid (19.2 g, 60%): 1H NMR (300 MHz, DMSO-d6) δ 11.46 (br s, 1H), 11.04 (s, 1H), 5.79 (s, 1H), 2.09 (s, 3H).

reactant | 4-Hydroxy-6-methyl-1H-pyridin-2-one | 0.2 mol, 25 g | OC1=CC(NC(=C1)C)=O | C6H7NO2
reactant | N-chlorosuccinimide | 0.22 mol, 29.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 3-Chloro-4-hydroxy-6-methyl-1H-pyridin-2-one | 19.2 g, 60% | ClC=1C(NC(=CC1O)C)=O | C6H6ClNO2
